Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure activity
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with PMH opioid abuse and depression who was transferred 
from OSH for new onset seizures.  
 Patient is a prisoner and was just incarcerated on day of 
admission. Patient endorses Xanax and heroin use, reported last 
use ___ although tox screen positive for benzodiazepines. He 
had two seizures at OSH. Lactate was 18. He received Ativan. LP 
was performed and showed 1 WBC. He was transferred here for 
further management where he triggered on arrival for seizure and 
was cyanotic. He received 2mg Ativan which broke the seizure and 
then became post-ictal.  
 In the ED, initial vitals were: 98.8 103 145/87 18 96% RA. He 
later spiked a fever to 100.8  
 - Labs notable for lactate of 18 at OSH, LP without infection  
 - Imaging: CXR without evidence of infection  
 Patient was given: 2L NS, 2mg IV Ativan at time of seizure, 
10mg PO diazepam X 4, Tylenol, potassium, home fluoxetine, and 
then received IV phenobarbital load.  
 On the floor, initial vitals were 98.5 146/91 81 16 97% RA.  

 
Past Medical History:
Opioid abuse  
 Depression/anxiety 

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Admission Physical Exam:
Vital Signs: 98.5 146/91 81 16 97% RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended  
 GU: No foley  
 Ext: Warm, well perfused, no clubbing, cyanosis or edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
gait deferred.  
 Access: peripherals  

Discharge Physical Exam:
Vitals:  98.3 148/88 75 95 RA
General: oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, symmetric strength and light touch 
sensation b/l upper and lower extremities, downgoing Babinski 
b/l  
 
Pertinent Results:
Admission Labs:

___ 12:07PM BLOOD WBC-12.0* RBC-4.09* Hgb-12.5* Hct-37.9* 
MCV-93 MCH-30.6 MCHC-33.0 RDW-13.4 RDWSD-45.5 Plt ___
___ 12:07PM BLOOD Neuts-80.9* Lymphs-12.4* Monos-6.1 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-9.71* AbsLymp-1.49 
AbsMono-0.73 AbsEos-0.00* AbsBaso-0.03
___ 12:07PM BLOOD Glucose-116* UreaN-10 Creat-0.9 Na-144 
K-4.0 Cl-107 HCO3-18* AnGap-23*
___ 06:15AM BLOOD Calcium-9.0 Phos-3.5 Mg-2.2
___ 12:07PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-POS* Barbitr-NEG Tricycl-NEG
___ 06:22PM BLOOD ___ pO2-50* pCO2-35 pH-7.43 
calTCO2-24 Base XS-0
___ 06:22PM BLOOD Lactate-2.8* K-3.6

___ 08:00PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 08:00PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 08:00PM URINE RBC-1 WBC-2 Bacteri-FEW Yeast-NONE Epi-0
___ 08:00PM URINE bnzodzp-POS* barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

Discharge Labs:
___ 04:30AM BLOOD WBC-11.1* RBC-4.17* Hgb-12.8* Hct-38.1* 
MCV-91 MCH-30.7 MCHC-33.6 RDW-13.2 RDWSD-44.3 Plt ___
___ 04:30AM BLOOD Glucose-122* UreaN-14 Creat-0.8 Na-143 
K-3.4 Cl-102 HCO3-26 AnGap-18
___ 04:30AM BLOOD Calcium-8.9 Phos-3.6 Mg-2.2

Imaging:
FINDINGS:    
AP portable upright view of the chest.   Overlying EKG leads are 
present.  
Lung volumes are low limiting assessment.  Allowing for low lung 
volumes, 
there is no convincing evidence for pneumonia or edema.  No 
large effusion or pneumothorax.  Mild prominence of the hilar 
structures likely reflect 
bronchovascular crowding in the setting of low lung volumes.  
Cardiomediastinal silhouette appears normal.  Bony structures 
are intact.  No free air below the right hemidiaphragm. 
  
IMPRESSION:  
  
As above. 

Micro:
___ 8:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
___ with PMH history opioid use, chronic benzodiazepine use, who 
presented with seizure-like activity concerning for 
benzodiazepine withdrawal. Per discussion with medical office at 
Sheriff's Office, patient completed Ativan taper prior to 
presentation. Patient arrived reporting and requesting use of 
Prozac, Adderall, and gabapentin, although per report, he had 
not been receiving any of these at the Jail and was awaiting 
psych evaluation there.

Patient initially seen at ___ where LP was unrevealing 
and CT head unremarkable. In the ED he was given 4 doses of 
diazepam 10 mg. He was given one dose of IV phenobarb (loading 
dose) and one dose of PO phenobarbital after admission. 
Neurological exam fully intact. Per discussion with Sheriff's 
Office medical office, will pursue repeat Ativan taper again 
there upon discharge, as well as planned psych eval.

Transitional Issues:
- clarification and dose adjustment of home psych meds
- continue Ativan taper upon arrival to medical office at jail
- consider neurological consultation if further seizure activity 
occurs
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 40 mg PO QAM 
2. FLUoxetine 20 mg PO QPM 

 
Discharge Medications:
1. HELD- FLUoxetine 40 mg PO QAM  This medication was held. Do 
not restart FLUoxetine until dose clarified with medical office 
psychiatrist
2. HELD- FLUoxetine 20 mg PO QPM  This medication was held. Do 
not restart FLUoxetine until until dose clarified with medical 
office psychiatrist

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Withdrawal seizure

Secondary Diagnosis:
Substance Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.- in ankle cuffs

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your stay at ___.

You were admitted for seizure activity. You were initially given 
Ativan and then later a medication called phenobarbital. The 
seizures improved. Your doctors at ___ to continue an 
Ativan taper per their protocol upon your return.

Wishing you well,
Your ___ Medicine Team
 
Followup Instructions:
___